US04127720
A mixture of 1-aminoisoquinoline (14.4 g., 0.10 mole) and ethyl ethoxymethylenecyanoacetate (16.9 g., 0.10 mole) was plunged into an oil bath at 105°-110° and lept there for 10 minutes under a nitrogen atmosphere. During this time the mixture melted, evolved ethanol and set solid. The solid was crystallized from toluene to give bright yellow crystals (18 g., 67% yield) of ethyl 4-imino-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate, m.p. 197°-199°. Another recrystallization from toluene provided an analytical sample, m.p. 199°-201°.

reactant | 1-aminoisoquinoline | 0.10 mole, 14.4 g | NC1=NC=CC2=CC=CC=C12 | C9H8N2
reactant | ethyl ethoxymethylenecyanoacetate | 0.10 mole, 16.9 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-imino-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 18 g, 67% yield | N=C1C(=CN=C2N1C=CC1=CC=CC=C21)C(=O)OCC | C15H13N3O2
